US05387679
43 g of boron trifluoride were passed into 200 ml of dimethyl carbonate under stirring at 25°-30° C. for 20 minutes. The resulting crystalline precipitate was filtered in dry nitrogen atmosphere, washed with pentane and dried under vacuum at room temperature to constant weight to give 98 g of dimethyl carbonate trifluoroborane, as white crystals.

reactant | boron trifluoride | 43 g | B(F)(F)F | BF3
reactant | dimethyl carbonate | 200 ml | C(OC)(OC)=O | C3H6O3
product | dimethyl carbonate trifluoroborane | 98 g | FB(F)F.C(OC)(OC)=O | InChI=1S/C3H6O3.BF3/c1-5-3(4)6-2;2-1(3)4/h1-2H3;
